US04695398
Mg (12.4 g, 0.510 g atom) was added to a solution of 3,4-difluorobromobenzene (97.8 g, 0.507 mol) dissolved in dried tetrahydrofuran (100 ml), followed by reacting the mixture while keeping it at 40° C. in nitrogen current for 2 hours, and then cooling down to 10° C. to obtain a reaction fluid 1. Into this reaction fluid 1 was poured a solution of 4-pentylcyclohexanone (85.8 g, 0.510 mol) dissolved in dried tetrahydrofuran (100 ml) at such a rate that the fluid temperature might not exceed 40° C., followed by reacting the mixture while keeping it at 50° C. for 2 hours, cooling down to room temperature to obtain a reaction fluid 2. To this reaction fluid 2 were added 6N-hydrochloric acid (50 ml) and water (200 ml), followed by extracting the deposited oily substance with n-heptane (200 ml), washing the extraction fluid with water till the washing water became neutral, and distilling off n-heptane to obtain an oily substance 1 corresponding to 3,4-difluoro-(4-pentylcyclohexane-1-ol) benzene. To this oily substance 1 was added potassium hydrogen surface (20 g), followed by keeping the mixture in nitrogen current at 180° C. for 2 hours to effect dehydration reaction, cooling down to room temperature, adding water (200 ml) and n-heptane (200 ml), separating the n-heptane layer, washing it with water till the washing water became neutral, and distilling off n-heptane to obtain an oily substance 2 corresponding to 3,4-difluoro-(4-pentylcyclohexane-1-yl) benzene. This oily substance 2 was dissolved in ethyl alcohol (100 ml), followed by adding a Raney Ni (6.0 g), carrying out a catalytic reduction reaction at 25° C. under the atmospheric pressure till absorption of hydrogen ceased, filtering off the Raney Ni, distilling off ethyl alcohol from the filtrate, distilling the remaining oily substance under reduced pressure to obtain a fraction having a b.p. of 115° C./2 mm Hg, which was then recrystallized from ethyl alcohol (100 ml) to obtain the objective trans-4-pentyl-(3,4-difluorophenyl) cyclohexane (23.8 g, 0.089 mol).

reactant | 3,4-difluorobromobenzene | 0.507 mol, 97.8 g | FC=1C=C(C=CC1F)Br | C6H3BrF2
reactant | 4-pentylcyclohexanone | 0.510 mol, 85.8 g | C(CCCC)C1CCC(CC1)=O | C11H20O
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3,4-difluoro-(4-pentylcyclohexane-1-ol) benzene | C1=CC=CC=C1.FC1CC(CCC1(CCCCC)F)O | InChI=1S/C11H20F2O.C6H6/c1-2-3-4-6-11(13)7-5-9(14)8-10(11)12;1-2-4-6-5-3-1/h9-10,14H,2-8H2,1H3;1-6H
